US04431440
Preparation of 2-(4-methylphenyl)-4(3H)-quinazolinone
A mixture of 2'-carbamoyl-p-toluanilide (66.97 g; 0.263 mol), sodium hydroxide (41.9 g) and water 837 ml) is stirred and heated at reflux for 0.5 hour. The resultant solution is cooled down, made acid with acetic acid. The reaction mixture is filtered, the isolated product is washed and dried to afford 58.16 g off white solid, mp 239°-241° C. Recrystallized from absolute ethanol, the product has a mp of 239°-240.5° C.

reactant | 2'-carbamoyl-p-toluanilide | 0.263 mol, 66.97 g | C(N)(=O)C1=C(NC(=O)C2=CC=C(C=C2)C)C=CC=C1 | C15H14N2O2
reactant | sodium hydroxide | 41.9 g | [OH-].[Na+]
reactant | water | 837 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-methylphenyl)-4(3H)-quinazolinone | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C15H12N2O
